US08455500B2
<Step 1> Synthesis of 4-(tert-butyldimethylsiloxy)-2,3-dihydro-1H-inden-1-one
To a solution of 2,3-dihydro-4-hydroxy-1H-inden-1-one (1.0 g) in N,N-dimethylformamide (10 mL), imidazole (1.01 g) and tert-butyldimethylsilyl chloride (1.32 g) were sequentially added and the resultant reaction mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into ethyl acetate-saturated aqueous sodium bicarbonate and the resultant reaction mixture was subjected to a phase separation. The organic phase was washed sequentially with water and a saturated saline and was dried over anhydrous sodium sulfate. From the organic phase, the solvent was distilled off under reduced pressure and the resultant residue was purified by silica gel column chromatography (eluate: n-hexane:ethyl acetate=95:5 to 90:10) to obtain the subject compound (1.63 g) as a pale yellow oil.

reactant | 2,3-dihydro-4-hydroxy-1H-inden-1-one | 1.0 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | imidazole | 1.01 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 1.32 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(tert-butyldimethylsiloxy)-2,3-dihydro-1H-inden-1-one | 1.63 g | O([Si](C)(C)C(C)(C)C)C1=C2CCC(C2=CC=C1)=O | C15H22O2Si
